US05491164
Step E: N-[2(R)-Amino-3-mercaptopropyl]-L-proline- 2,3-dichlorobenzamide
N-[2(R)-t-Butoxycarbonylamino-3-triphenylmethylmercaptopropyl]-L-proline-2,3-dichlorobenzamide (0.097 g, 0.14 mmol) was dissolved in CH2Cl2(3 mL), CF3CO2H (1 mL) at ambient temperature, treated with triethylsilane (0.088 mL, 0.55 mmol) and stirred for 1 h. The reaction mixture was triturated with 0.1% TFA in H2O, filtered, concentrated and chromatographed by RP-HPLC and lyophilized. The residue was dissolved in MeOH (1 mL), treated with concd HCl, concentrated and triturated with Et2O to provide the title compound as the his hydrochloride salt. 1H NMR (CD3OD) δ 7.50 (d, 1H, J=6 Hz), 7.27-7.4 (m, 2H),4.60 (ABq, 2H), 4.25-4.7 (m, 1H), 3.3-3.9 (m, 5H), 2.99 (d, 2H, J=5 Hz), 2.5-2.7 (m, 1H), 2.0-2.3 (m, 3H).

reactant | N-[2(R)-t-Butoxycarbonylamino-3-triphenylmethylmercaptopropyl]-L-proline 2,3-dichlorobenzamide | 0.14 mmol, 0.097 g | C(C)(C)(C)OC(=O)N[C@H](CN1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=C(C(=O)N)C=CC=C1Cl
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | triethylsilane | 0.55 mmol, 0.088 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[2(R)-Amino-3-mercaptopropyl]-L-proline 2,3-dichlorobenzamide | N[C@H](CN1[C@H](C(=O)O)CCC1)CS.ClC1=C(C(=O)N)C=CC=C1Cl | InChI=1S/C8H16N2O2S.C7H5Cl2NO/c9-6(5-13)4-10-3-1-2-7(10)8(11)12;8-5-3-1-2-4(6(5)9)7(10)11/h6-7,13H,1-5,9H2,(H,11,12);1-3H,(H2,10,11)/t6-,7+;/m1./s1
